US06592631B2
3 g (13.5 mmol) of 4-nitro-2-(2-thienyl)phenol are dissolved in 40 ml ethanol and hydrogenated at 25° C. after addition of 600 mg of a palladium activated carbon catalyst (10%). The catalyst is removed by filtration after up-take of the theoretically required amount of hydrogen. After concentrating the solution in a rotary evaporator the reaction mixture is poured into 20 ml of cold diethyl ether. The precipitated product is separated from the solution by filtration and dried. 1.95 g (75% of theoretical yield) of 4-amino-2-(2-thienyl)phenol are obtained with a melting point of 130 to 132° C.

reactant | 4-nitro-2-(2-thienyl)phenol | 13.5 mmol, 3 g | [N+](=O)([O-])C1=CC(=C(C=C1)O)C=1SC=CC1 | C10H7NO3S
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | palladium activated carbon | 600 mg | [Pd] | Pd
product | 4-amino-2-(2-thienyl)phenol | 1.95 g, 75% | NC1=CC(=C(C=C1)O)C=1SC=CC1 | C10H9NOS
